US07179934B2
(3S,5S)-3-Amino-3,5-dimethyl-heptanoic acid
A mixture of (3S,5S)-3,5-dimethyl-3-((S)-2-methyl-propane-2-sulfinylamino)-heptanoic acid methyl ester (0.4 g, 1.37 mmol) and concentrated hydrochloric acid (7.6 mL) in acetone (10 mL) was refluxed for 3 hours. The solvents were stripped under reduced pressure. The residue was dissolved in water (10 mL) and extracted by EtOAc (2×15 mL). The aqueous phase was evaporated to dryness. The residue was dissolved in a mixture of water (10 mL) and triethylamine (0.5 mL). The mixture was stirred at 40° C. for 20 minutes and then was evaporated to dryness. The residue was washed thoroughly with acetonitrile, filtered, and dried under vacuum to give the final product, (3S,5S)-3-amino-3,5-dimethyl-heptanoic acid (0.182 g, 77% yield) as a white solid. m.p. 215–217° C.: 1H NMR (CDCl3) δ 4.85 (s, 3H), 2.38 (m, 2H), 1.75 (m, 1H), 1.39 (m, 4H), 1.35(s, 3H), 0.98 (d, J=6.6 Hz, 3H), 0.90 (t, J=7.5 Hz, 3H); MS (APCl) (M+1)+ 174.1.

reactant | (3S,5S)-3,5-dimethyl-3-((S)-2-methyl-propane-2-sulfinylamino)-heptanoic acid methyl ester | 1.37 mmol, 0.4 g | COC(C[C@](C[C@H](CC)C)(N[S@@](=O)C(C)(C)C)C)=O | C14H29NO3S
reactant | hydrochloric acid | 7.6 mL | Cl | ClH
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | water | 10 mL | O | H2O
product | (3S,5S)-3-amino-3,5-dimethyl-heptanoic acid | 0.182 g, 77% yield | N[C@](CC(=O)O)(C[C@H](CC)C)C | C9H19NO2
